US06664291B2
5-(2,6-dichloro-4-nitro-phenoxy)-2-methoxy-benzenesulfinic acid
To a solution of 5-(2,6-dichloro-4-nitro-phenoxy)-2-methoxy-benzenesulfonyl chloride (4.26 g, 10.3 mmol) in water (40 mL) was added sodium sulfite (3.89 g, 30.9 mmol) and sodium bicarbonate (5.19 g, 61.8 mmol). The resulting mixture was heated to reflux for 2 h and then cooled to RT. The solution was acidified with conc. HCl (5 mL) followed by addition of water (40 mL). The aqueous solution was extracted with EtOAc (5×80 mL). The combined organic extracts were washed with brine (2×50 mL), dried and concentrated to give the title compound of Step B (2.56 g) as a solid. The title product of Step B was used in the next step without purification. MS (APCl−) Calc.: 376.9, Found: 375.8 (M−1).

reactant | 5-(2,6-dichloro-4-nitro-phenoxy)-2-methoxy-benzenesulfonyl chloride | 10.3 mmol, 4.26 g | ClC1=C(OC=2C=CC(=C(C2)S(=O)(=O)Cl)OC)C(=CC(=C1)[N+](=O)[O-])Cl | C13H8Cl3NO6S
reactant | sodium sulfite | 30.9 mmol, 3.89 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | 61.8 mmol, 5.19 g | C([O-])(O)=O.[Na+]
reactant | HCl | 5 mL | Cl | ClH
solvent | water | 40 mL | O | H2O
solvent | water | 40 mL | O | H2O
product | 5-(2,6-dichloro-4-nitro-phenoxy)-2-methoxy-benzenesulfinic acid | 2.56 g | ClC1=C(OC=2C=CC(=C(C2)S(=O)O)OC)C(=CC(=C1)[N+](=O)[O-])Cl | C13H9Cl2NO6S
